US07176242B2
Step 3. N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-(dipropylamino)-6-methylpyrimidine-4-carboxamide
To 2-(dipropylamino)-6-methylpyrimidine-4-carboxylic acid (0.101 g, 0.426 mmol) in THF (0.5 mL) was added 1,1′-carbonyldiimidazole (CDI) (0.076 g, 0.468 mmol). After 50 min the CDI mixture was added to a mixture of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride (0.173 g, 0.425 mmol) and triethylamine (0.18 mL, 1.28 mmol) in THF (6 mL) and dichloromethane (2 mL). After stirring overnight, the solvents were removed under reduced pressure and the residue was partitioned between dichloromethane, aq. sodium bicarbonate, and aq. sodium bicarbonate-brine mixture. The organic layer was dried over sodium sulfate, concentrated, and the residue was chromatographed on silica gel using MeOH-dichloromethane (5/95) to give 0.199 g of the title compound as a solid.

reactant | 2-(dipropylamino)-6-methylpyrimidine-4-carboxylic acid | 0.426 mmol, 0.101 g | C(CC)N(C1=NC(=CC(=N1)C(=O)O)C)CCC | C12H19N3O2
reactant | 1,1′-carbonyldiimidazole | 0.468 mmol, 0.076 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | 0.425 mmol, 0.173 g | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
reactant | triethylamine | 1.28 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-(dipropylamino)-6-methylpyrimidine-4-carboxamide | 0.199 g | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C2=NC(=NC(=C2)C)N(CCC)CCC)C=C(C1)F | C31H41F2N5O2
